US05574044
A stirred solution of 0.52 g of 1,3-dihydro-1-{trans-4-[4-(tert--butylcarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one in 15 mL of 1N HCl was heated to reflux for 1 h, cooled and basified with 6N NaOH. The basic mixture was extracted with 2×50 mL portions of chloroform. The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure. After drying overnight under vacuum, there was obtained 0.28 g of 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one as a white solid: 1H NMR (400 MHz, CDCl3) 7.16-7.03 (m, 4H), 4.27 (m, 1H), 2.94 (m, 4H), 2.61 (m, 4H), 2.25 (m, 2H), 2.1 (d, 2H), 1.97 (d, 2H), 1.54 (m, 2H).

reactant | 1,3-dihydro-1-{trans-4-[4-(tert--butylcarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.52 g | C(C)(C)(C)C(=O)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C22H32N4O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 1N, 15 mL | Cl | ClH
product | 1,3-dihydro-1-{trans-4-[1-piperazinyl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.28 g | N1(CCNCC1)[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
